US03984569
Preparation of S-(o-fluorobenzyl) glutathione ##SPC4##
A mixture of 3.07 g of glutathione, 2.8 cc of triethylamine and 100 cc of methanol is brought to a boil. Then a solution of 1.45 g of o-fluorobenzyl chloride in 20 cc of methanol is added. After this addition, the resulting mixture is heated for 3 hours at 50°C, then allowed to cool and, by addition of dilute hydrochloric acid, 3.35 g of a white product are precipitated which can then be crystallized in water. Thus a product having a melting point of around 200°C (with decomposition) is obtained.

reactant | glutathione | 3.07 g | N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | C10H17N3O6S
reactant | triethylamine | 2.8 cc | C(C)N(CC)CC | C6H15N
reactant | o-fluorobenzyl chloride | 1.45 g | FC1=C(CCl)C=CC=C1 | C7H6ClF
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 20 cc | CO | CH4O
solvent | methanol | 100 cc | CO | CH4O
product | S-(o-fluorobenzyl) glutathione | FC1=C(CSC[C@H](NC(CC[C@H](N)C(=O)O)=O)C(=O)NCC(=O)O)C=CC=C1 | C17H22FN3O6S
